US04877873
Phenolphthalein indicator (3 drops) was added to a solution of hydroxylamine hydrochloride (4.2 g.) in dry methanol (60 ml.). To the solution was dropwise added with stirring at ambient temperature 1N methanol solution of sodium methoxide (60 ml.) until the color of the solution was changed to purplish red. Hydroxylamine hydrochloride was added thereto by small portions until the solution was changed to colorless solution. The mixture was stirred for 30 minutes at ambient temperature. After precipitating sodium chloride was filtered off, 2-(2-mesylamino-1,3-thiazol-4-yl)glyoxylic acid (12.5 g.) was added to the filtrate and the mixture was refluxed with stirring for 1.5 hours. The reaction mixture was cooled to precipitate crystals. The crystals were collected by filtration and dried to give crude 2-hydroxyimino-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid (a mixture of syn and anti isomers) (5.5 g.). The filtrate was concentrated to the volume of 1/4 and ether was added thereto. Precipitating crystals were collected by filtration, washed with ether and dried to give the same compound (8.78 g.). Total yield (14.3 g.). (3) A mixture of ethyl 2-hydroxyimino-4-bromoacetoacetate (a mixture of syn and anti isomers) (2.4 g) and thiourea (0.76 g) in ethanol (15 ml) was stirred for 1 hour at 60° C. Ethanol was distilled off under reduced pressure and water was added to the residue. The resultant mixture was adjusted to pH 1.0 and washed with ethyl acetate. The aqueous layer was adjusted to pH 4.5 with triethylamine and extracted with ethyl acetate. The extract was washed with water and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to column chromatography on silica gel using a mixture of ethyl acetate and benzene (1:3) as developing solvent. The eluates containing syn isomer were collected and concentrated to give ethyl 2-hydroxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate (syn isomer) (0.3 g).

reactant | Phenolphthalein | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
reactant | hydroxylamine hydrochloride | 4.2 g | Cl.NO
reactant | sodium methoxide | 60 ml | C[O-].[Na+]
reactant | ethyl 2-hydroxyimino-4-bromoacetoacetate | ON=C(C(=O)OCC)C(=O)CBr | C6H8BrNO4
reactant | thiourea | 0.76 g | NC(=S)N | CH4N2S
solvent | methanol | 60 ml | CO | CH4O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | methanol | 1N | CO | CH4O
product | ethyl 2-hydroxyimino-2-(2-amino-1,3-thiazol-4-yl)acetate | 0.3 g | ON=C(C(=O)OCC)C=1N=C(SC1)N | C7H9N3O3S
